US07582629B2
4-[(4-Fluorophenyl)amino]-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-fluoroaniline in a similar manner as described for e.g. Examples 9 and 13. 1H NMR (400 MHz, CDCl3): δ 3.27 (s, 3H), 6.66-6.71 (m, 4H), 7.12-7.26 (m, 5H); 13C NMR (100 MHz, CDCl3): δ 24.2, 111.1, 115.1, 115.3, 123.8, 123.9, 124.5, 128.2, 129.0, 129.2, 129.3, 131.1, 131.2, 131.8, 131.9, 158.6, 159.0, 161.1; 13C NMR (100 MHz, CDCl3): δ 24.2, 111.1, 123.8, 123.9, 124.5, 128.2, 129.2, 129.3, 131.2, 131.8, 131.9, 158.6, 159.0, 161.1; Mass Spectrum: M−H+ 331.

reactant | 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C)=O | C10H8ClNO3S
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 4-[(4-Fluorophenyl)amino]-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | FC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C)=O | C16H13FN2O3S
